US05049485
Aurous bis(1-methyl-4,5-diphenyl-1,2,4-triazolium-3-thiolate) tetrafluoroborate (compound 10)
Aurous bis(tetramethylthiourea) tetrafluoroborate (0.201 g, prepared as described above) was dissolved in 3 mL methanol at room temperature and added dropwise to 1-methyl-4,5-diphenyl-1,2,4-triazolium-3-thiolate (0.216 g) which was partly dissolved in 3 mL methanol at room temperature. The mixture was stirred for 10 minutes after the addition was complete, and then a white powder was filtered (91% yield). This product was soluble in acetone. The elemental analysis conformed to the formula for compound 10.

reactant | bis(tetramethylthiourea) tetrafluoroborate | 0.201 g | F[B-](F)(F)F.CN(C(N(C)C)=S)C.CN(C(N(C)C)=S)C
reactant | 1-methyl-4,5-diphenyl-1,2,4-triazolium-3-thiolate | 0.216 g | C[N+]=1N=C(N(C1C1=CC=CC=C1)C1=CC=CC=C1)[S-] | C15H13N3S
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
product | bis(1-methyl-4,5-diphenyl-1,2,4-triazolium-3-thiolate) tetrafluoroborate | 91% yield | F[B-](F)(F)F.C[N+]=1N=C(N(C1C1=CC=CC=C1)C1=CC=CC=C1)[S-].C[N+]=1N=C(N(C1C1=CC=CC=C1)C1=CC=CC=C1)[S-] | InChI=1S/2C15H13N3S.BF4/c2*1-17-14(12-8-4-2-5-9-12)18(15(19)16-17)13-10-6-3-7-11-13;2-1(3,4)5/h2*2-11H,1H3;/q;;-1
